US04348322
A solution of 4-(4-chlorophenyl)benzaldehyde (41.5 g.) in chlorobenzene (250 ml.) containing in addition 2-hydroxy-2-methylpropionic acid (29.7 g.) and p-toluenesulphonic acid monohydrate (2.7 g.) was heated under reflux for 6 hours at reduced pressure (105° C., 313 mm Hg) with continuous removal of water by azeotropic distillation. The solution was then cooled, washed successively with 10% w/v sodium carbonate solution (500 ml.) and water (2×500 ml.), dried (MgSO4), filtered and diluted with fresh chlorobenzene to a volume of 350 ml. to give a solution containing 14.3% w/v of 2-[4-(4-chlorophenyl)-phenyl]-5,5-dimethyl-1,3-dioxolanone-4-one, as estimated by gas-liquid chromatography. This solution (35 ml.) was added during 1 hour at 0° to 5° C. under an argon atmosphere to a stirred solution of t-butyl magnesium chloride [prepared from magnesium turnings (1.61 g.) and a solution of t-butyl chloride (9.33 ml.) in anhydrous ether (40 ml.)]. The mixture was stirred for 1 hour at 0° to 5° C. and then for a further 16 hours at room temperature before being poured into 1.5 M hydrochloric acid (100 ml.). The organic phase was separated and washed with water (2×100 ml.), dried (Na2SO4) and evaporated to give 2-[4-(4-chlorophenyl)benzyloxy]-2-methyl-propionic acid (9.23 g.), m.p. 154°-155° C., after recrystallisation from toluene.

reactant | 4-(4-chlorophenyl)benzaldehyde | 41.5 g | ClC1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
reactant | 2-hydroxy-2-methylpropionic acid | 29.7 g | OC(C(=O)O)(C)C | C4H8O3
reactant | p-toluenesulphonic acid monohydrate | 2.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | t-butyl magnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | magnesium | 1.61 g | [Mg] | Mg
reactant | t-butyl chloride | 9.33 ml | C(C)(C)(C)Cl | C4H9Cl
reactant | hydrochloric acid | 1.5 M, 100 ml | Cl | ClH
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-[4-(4-chlorophenyl)benzyloxy]-2-methyl-propionic acid | 9.23 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C)C)C=C1 | C17H17ClO3
